US04725283
Preparation of 2-chloro-5-β-aminoethylamino-4-nitro-N-(β-hydroxyethyl)aniline
0.04 mole (10 g) of 4,5-dichloro-2-nitro-N-β-aminoethylaniline prepared in the 1st stage is heated in 40 ml of monoethanolamine for 30 minutes to 100° C. The reaction mixture is diluted with 450 ml of iced water. An impurity is precipitated by adding hydrochloric acid and is removed by filtration. The filtrate is made alkaline with concentrated sodium hydroxide solution. The expected product precipitates. After filtration and drying, it is purified as its hydrochloride before being recrystallized from alcohol. It melts at 160° C.

reactant | 4,5-dichloro-2-nitro-N-β-aminoethylaniline | 0.04 mole, 10 g | ClC1=CC(=C(NCCN)C=C1Cl)[N+](=O)[O-] | C8H9Cl2N3O2
reactant | monoethanolamine | 40 ml | C(O)CN | C2H7NO
solvent | water | 450 ml | O | H2O
product | 2-chloro-5-β-aminoethylamino-4-nitro-N-(β-hydroxyethyl)aniline | ClC1=C(NCCO)C=C(C(=C1)[N+](=O)[O-])NCCN | C10H15ClN4O3
